US07125896B2
c) 1-(2-Bromophenyl)pyrrolidin-3-ol
2-Bromoaniline (2 g) was heated with 1,4-dibromo-2-butanol (1.58 ml) and diisopropylethylamine (4.9 ml) in toluene (10 ml) at reflux for 20 h. The reaction mixture was allowed to cool, diluted with water (60 ml) and the aqueous phase extracted with ethyl acetate (3×30 ml). The combined extracts were washed with water, brine, dried (MgSO4), filtered and evaporated. The residue was adsorbed onto silica and purified by column chromatography, eluting with a gradient of 0–20% ethyl acetate in isohexane, to afford the product as a yellow oil (2.30 g).

reactant | 2-Bromoaniline | 2 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | 1,4-dibromo-2-butanol | 1.58 ml | BrCC(CCBr)O | C4H8Br2O
reactant | diisopropylethylamine | 4.9 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 60 ml | O | H2O
product | 1-(2-Bromophenyl)pyrrolidin-3-ol | 2.30 g | BrC1=C(C=CC=C1)N1CC(CC1)O | C10H12BrNO
